US04698337
2-(2-Formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetic acid (syn isomer, 3.4 g.), 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (4.3 g.), trimethylsilylacetamide (12.6 g.), dry N,N-dimethylformamide (1.0 g.), phosphoryl chloride (2.0 g.), ethyl acetate (139 ml.) PG,71 were treated in a similar manner to that of Example 11-(1) to give 7-[2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 2.47 g.).

reactant | 2-(2-Formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetic acid | 3.4 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCOC=O | C9H9N3O6S
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 4.3 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
reactant | trimethylsilylacetamide | 12.6 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | phosphoryl chloride | 2.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | 139 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1.0 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.47 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCCOC=O | C19H19N9O8S3
